US09315495B2
To solution of 2-isobutylthiophene (743 mg, 5.30 mmol) in 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (2.3 mL, 2.5 M in hexanes) dropwise. The resulting solution was stirred for 20 minutes at −78° C. Bromine (0.35 mL, 6.89 mmol) was added dropwise as a solution in 1 mL anhydrous dichloromethane. The resulting mixture was stirred at −78° C. for 30 minutes before being poured, while cold, into 50 mL of 5% sodium bisulfite solution. 1 N hydrochloric acid (50 mL) was added and organics were extracted with ether (3×75 mL), washed with 0.1 N hydrochloric acid, water and brine (50 mL each), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (0-10% ethyl acetate in hexanes) to give 2-bromo-5-isobutylthiophene as the major component of a mixture of two compounds. Used without further purification or characterization.

reactant | 2-isobutylthiophene | 5.30 mmol, 743 mg | C(C(C)C)C=1SC=CC1 | C8H12S
reactant | n-butyllithium | 2.5 M, 2.3 mL | C(CCC)[Li]
reactant | Bromine | 6.89 mmol, 0.35 mL | BrBr | Br2
reactant | sodium bisulfite | 50 mL | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1 N, 50 mL | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran hexamethylphosphoramide | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 2-bromo-5-isobutylthiophene | BrC=1SC(=CC1)CC(C)C | C8H11BrS
